US08026234B2
Compound 118: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)acetyl)piperidin-4-yl)-2-fluoro-5-methoxybenzamide
Using the general procedure for amide bond synthesis, 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid was first reacted with tert-butyl 4-aminopiperidine-1-carboxylate. The product was diluted to ethyl acetate, washed by sodium bicarbonate aqueous solution and brine. Organic extract was dried and concentrated to a residue. It was then dissolved in a mixture of TFA and MeOH (1:1) and stirred for 1 h. After which, it was concentrated in vacuo, separated between ethyl acetate and sodium bicarbonate aqueous solution. Organic extract dried and concentrated to a residue, which was subjected to amide bond synthesis with 2-(dimethylamino)acetic acid. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38 (m, 2H) 1.61 (m, 4H) 1.73 (br. s., 4H) 1.99 (s, 3H) 2.19 (s, 6H) 2.73 (m, 1H) 3.14 (m, 3H) 3.80-3.95 (m, 3H) 3.95-4.20 (m, 4H) 4.26 (m., 1H) 4.81 (d, J=8.1 Hz, 1H) 7.19 (d, J=6.8 Hz, 1H) 7.92-8.10 (m, 2H) 8.18-8.35 (m, 2H). [M+H] calc'd for C30H39F3N8O4, 633. found 633.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)acetyl)piperidin-4-yl)-2-fluoro-5-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCN(CC1)C(CN(C)C)=O)C=C2OC)F | C30H39F3N8O4
